US07794700B2
Sodium hydroxide (10 g, 0.25 m) is dissolved in water (300 ml). To this solution 4-nitrophenylalanine (50.3 g, 0.22 m) is added and stirred until complete dissolution. To the resulting solution the sodium carbonate (28.8 g, 0.26 m) is added and stirred suspension is cooled in an ice bath to +8° C. Benzyl chloroformate (44.7 g, 0.26 m) is added dropwise with vigorous stirring, maintaining internal temperature in +6° to +9° C. range. The mixture is stirred at +6° C. for additional 1 hr, transferred to the separatory funnel and washed with ether (2×150 ml). Aqueous phase is placed in a large Erlenmeyer flask (2L) and is cautiously acidified with dil. aq. HCl to pH=2 and extracted with ethyl acetate (4×500 ml). The combined extracts are washed with water and dried with MgSO4. The solution is filtered and filtrate evaporated, residue is dissolved in ethyl acetate (150 ml) and diluted with hexane (500 ml). Crystalline material is filtered off and rinsed with cold solvent, air dried to give Cbz-4-nitrophenylalanine, 75 g (99.5% yield). 1H-NMR, DMSO-d6, (δ): 12.85 (bs, 1H), 8.12 (d, 2H, J=9 Hz), 7.52 (d, 2H, J=9 Hz), 7.30 (m, 5H), 4.95 (s, 2H), 4.28 (m, 1H), 3.32 (bs, 1H), 3.10 (m, 2H).13C-NMR (δ): 173.1, 156.3, 146.6, 137.3, 130.8, 128.5, 128.0, 127.8, 123.5, 65.6, 55.1, 36.6. MS (m/z): 367.1 [M+23].

reactant | Sodium hydroxide | 10 g | [OH-].[Na+]
reactant | 4-nitrophenylalanine | 50.3 g | [N+](=O)([O-])C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H10N2O4
reactant | sodium carbonate | 28.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Benzyl chloroformate | 44.7 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | water | 300 ml | O | H2O
product | Cbz-4-nitrophenylalanine | 99.5% yield | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C17H16N2O6
